US05344958
A solution of 3-methoxy-2-methylbenzoic acid (1.5 g, 0.01 tool) in thionyl chloride (10 mL) was refluxed for 45 minutes and then stripped under reduced pressure. The residue was dissolved in methylene chloride (50 mL) and added dropwise with cooling at 0° C. to a solution of N-(3,5-dimethylbenzoyl)-N-tertbutylhydrazine (4.4 g. 0.02 mol) in methylene chloride (50 mL). Following the addition, the solution was stirred overnight at room temperature and filtered. The filter-cake was washed extensively with water and ether, and then dried in vacuo to give 2.1 g (64.1% yield) of N-(3-methoxy-2-methylbenzoyl)-N'(3,5-dimethylbenzoyl)-N'-tert-butylhydrazine, melting at 204-204.5° C. 1H-NMR δppm 1.50 (s, 9H, tert-Bu), 1.63 (s, 3H, Ar-CH3), 2.25 (s, 6H, di-CH3) 3.75 (s, 6.26 (d, 1H, Ar), 6.93-7.20 (m, 5H, Ar).

reactant | 3-methoxy-2-methylbenzoic acid | 1.5 g | COC=1C(=C(C(=O)O)C=CC1)C | C9H10O3
reactant | N-(3,5-dimethylbenzoyl)-N-tertbutylhydrazine | 0.02 mol, 4.4 g | CC=1C=C(C(=O)N(N)C(C)(C)C)C=C(C1)C | C13H20N2O
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(3-methoxy-2-methylbenzoyl)-N'(3,5-dimethylbenzoyl)-N'-tert-butylhydrazine | 2.1 g, 64.1% yield | COC=1C(=C(C(=O)NN(C(C)(C)C)C(C2=CC(=CC(=C2)C)C)=O)C=CC1)C | C22H28N2O3
